US05646286
t-Butyl 3-{6-hydroxymethyl-3-[8(4-methoxyphenyl)octyloxy]pyridin-2-yl}propenoate
To a solution of 2-bromo-6-hydroxymethyl-[8(4-methoxyphenyl)octyloxy]pyridine (5.00 g, 11.8 mmol) in DMF (22.8 ml) and water (1.2 ml) were added potassium acetate (3.00 g, 30.6 mmol), tetra-n-butylammonium iodide (4.36 g, 11.8 mmol), bis(triphenylphosphine)palladium dichloride (0.33 g, 0.47 mmol) and t-butyl acrylate (6.16 g, 48 mmol). The mixture was placed under nitrogen and stirred and heated at 120° C. for 45 min. The mixture was cooled and added to water (250 ml). The product was extracted into ethyl acetate (2×60 ml). The combined extracts were washed with water (100 ml), 5% sodium chloride solution (2×100 ml), then dried and evaporated. The product was obtained by flash column chromatography using silica and 10% ether in dichloromethane. Yield 4.29 g, 77%.

reactant | 2-bromo-6-hydroxymethyl-[8(4-methoxyphenyl)octyloxy]pyridine | 11.8 mmol, 5.00 g | BrC1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)CO | C21H28BrNO3
reactant | potassium acetate | 30.6 mmol, 3.00 g | C(C)(=O)[O-].[K+]
reactant | t-butyl acrylate | 48 mmol, 6.16 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | ether | CCOCC | C4H10O
solvent | DMF | 22.8 ml | CN(C)C=O | C3H7NO
solvent | water | 1.2 ml | O | H2O
catalyst | tetra-n-butylammonium iodide | 11.8 mmol, 4.36 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.47 mmol, 0.33 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 250 ml | O | H2O
product | t-Butyl 3-{6-hydroxymethyl-3-[8(4-methoxyphenyl)octyloxy]pyridin-2-yl}propenoate | OCC1=CC=C(C(=N1)C=CC(=O)OC(C)(C)C)OCCCCCCCCC1=CC=C(C=C1)OC | C28H39NO5
